US07205327B2
A solution of (2S)-2-[(1H-imidazole-2-carbonyl)-amino]-propionic acid tert-butyl ester (0.257 g) in dichloromethane (2 mL) was cooled to 0° C. before dropwise addition of trifluoroacetic acid and reaction mixture warmed to room temperature and stirred for 2 hr before evaporation under reduced pressure. The residue was co-evaporated with dichloromethane (twice) and toluene (twice) to leave the required (2S)-2-[(1H-imidazole-2-carbonyl)-amino]-propionic acid that was used without further purification (0.40 g).

reactant | (2S)-2-[(1H-imidazole-2-carbonyl)-amino]-propionic acid tert-butyl ester | 0.257 g | C(C)(C)(C)OC([C@H](C)NC(=O)C=1NC=CN1)=O | C11H17N3O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2S)-2-[(1H-imidazole-2-carbonyl)-amino]-propionic acid | N1C(=NC=C1)C(=O)N[C@H](C(=O)O)C | C7H9N3O3
